US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 5-(3-methoxybenzyloxy)pentyl bromide are reacted and treated in the same manner as in Example 168 to give 4-amino-5-chloro-2-methoxy-N-((1-(5-(3-methoxybenzyloxy)pentyl)-piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-(3-methoxybenzyloxy)pentyl bromide | COC=1C=C(COCCCCCBr)C=CC1 | C13H19BrO2
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(3-methoxybenzyloxy)pentyl)-piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOCC2=CC(=CC=C2)OC)C=C1Cl)OC | C27H38ClN3O4
